US08664220B2
Step 1: 1-(4′-{3-Methyl-4-[(2-phenyl-thiazol-5-ylmethyl)-amino]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 12, using 1-[4′-(4-amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester and 2-phenyl-thiazole-5-carbaldehyde.

reactant | 1-[4′-(4-amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)N | C22H22N2O3
reactant | 2-phenyl-thiazole-5-carbaldehyde | C1(=CC=CC=C1)C=1SC(=CN1)C=O | C10H7NOS
product | 1-(4′-{3-Methyl-4-[(2-phenyl-thiazol-5-ylmethyl)-amino]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NCC1=CN=C(S1)C1=CC=CC=C1 | C32H29N3O3S
